US09303035B2
Step 2: 2-(3-Bromo-2-((tert-butyldimethylsilyl)oxy)propyl)isoindoline-1,3-dione
A solution of 2-(3-bromo-2-hydroxypropyl)isoindoline-1,3-dione (100 mg, 0.352 mmol) in DMF (0.5 mL) was added dropwise to a mixture of DMAP (43.0 mg, 0.352 mmol), imidazole (47.9 mg, 0.704 mmol) and tertbutyldimethylsilyl chloride (74.3 mg, 0.493 mmol) in DMF (1 mL). The mixture was stirred at room temperature for 18 hours. The mixture was diluted with EtOAc (20 ml) and washed with saturated NaHCO3(aq) (20 ml) and brine (3×10 ml). The organic phase was dried over magnesium sulfate and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-100% EtOAc/hexane, afforded the title compound.

reactant | 2-(3-bromo-2-hydroxypropyl)isoindoline-1,3-dione | 0.352 mmol, 100 mg | BrCC(CN1C(C2=CC=CC=C2C1=O)=O)O | C11H10BrNO3
reactant | imidazole | 0.704 mmol, 47.9 mg | N1C=NC=C1 | C3H4N2
reactant | tertbutyldimethylsilyl chloride | 0.493 mmol, 74.3 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.352 mmol, 43.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | 2-(3-Bromo-2-((tert-butyldimethylsilyl)oxy)propyl)isoindoline-1,3-dione | BrCC(CN1C(C2=CC=CC=C2C1=O)=O)O[Si](C)(C)C(C)(C)C | C17H24BrNO3Si
